US05532364
cis-5-Benzyl-2-oxa-5,8-diazabicyclo[4.3.0]nonane
91 g (0.265 mol) of cis-8-benzoyl-5-benzyl-2-oxa-5,8-diazabicyclo[4.3.0]nonane with 200 ml of concentrated hydrochloric acid and 140 ml of water are heated under reflux overnight. After cooling, the benzoic acid is filtered off with suction, the solution is reduced to half the volume and made alkaline with potassium carbonate and extracted with chloroform, the extract is dried over potassium carbonate, concentrated and distilled.

reactant | cis-8-benzoyl-5-benzyl-2-oxa-5,8-diazabicyclo[4.3.0]nonane | 0.265 mol, 91 g | C(C1=CC=CC=C1)(=O)N1C[C@@H]2N(CCO[C@@H]2C1)CC1=CC=CC=C1 | C20H22N2O2
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | water | 140 ml | O | H2O
product | cis-5-Benzyl-2-oxa-5,8-diazabicyclo[4.3.0]nonane | C(C1=CC=CC=C1)N1CCO[C@@H]2CNC[C@H]12 | C13H18N2O
